***********************************************
****sky130A transistor models for ltspice****
***********************************************
*Minor changes to model definitions to make it work
*Import xnch.asy and xpch.asy symbols
*Change the subcircuit definition to the desired transistor
*
* To use add the following libraries to Ltspice
*.lib "sky130A_ltspice.lib" <Corner>
*
*If you are using MacOS ltspice does not recognize the paths correctly
*Use this instead
*.lib "sky130A_ltspice_<Corner>.lib"
*
*Corner can be: tt, ss, ff, sf, fs
*
*Make sure you have "./sky130A_ltspice" directory inside your working directory
*
*Monte Carlo Simulations currently not working.
*It requires major changes to the models to make it work
************************************************
*Modified by Adan Torralba
*
* 2026/08/11 Initial Release
*
***********************************************
*Transistor definitions with perimeter and area calculations


.inc "sky130A_ltspice\sky130_fd_pr__nfet_01v8__fs.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__nfet_01v8__fs.pm3.spice"

.inc "sky130A_ltspice\sky130_fd_pr__pfet_01v8__fs.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__pfet_01v8__fs.pm3.spice"

.inc "sky130A_ltspice\sky130_fd_pr__nfet_01v8_lvt__fs.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__nfet_01v8_lvt__fs.pm3.spice"

.inc "sky130A_ltspice\sky130_fd_pr__pfet_01v8_lvt__fs.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__pfet_01v8_lvt__fs.pm3.spice"

.inc "sky130A_ltspice\sky130_fd_pr__nfet_g5v0d10v5__fs.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__nfet_g5v0d10v5__mismatch.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__nfet_g5v0d10v5__fs.pm3.spice"

.inc "sky130A_ltspice\sky130_fd_pr__pfet_g5v0d10v5__fs.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__pfet_g5v0d10v5__mismatch.corner.spice"
.inc "sky130A_ltspice\sky130_fd_pr__pfet_g5v0d10v5__fs.pm3.spice"

.inc "sky130A_ltspice\lod.spice"
.param mc_mm_switch=0
.param mc_pr_switch=0

.subckt xnfet_01v8 D G S B
.param l=0.15u w=1u m=1 nf=1
.param ad = 'int((nf+1)/2) * W/nf * 0.29u'
.param as = 'int((nf+2)/2) * W/nf * 0.29u'
.param ps = '2*int((nf+2)/2) * (W/nf + 0.29u)'
.param pd = '2*int((nf+1)/2) * (W/nf + 0.29u)'
.param nrd = '0.29u / W'
.param nrs = '0.29u / W'
X1 D G S B sky130_fd_pr__nfet_01v8 l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs m=m
.ends

.subckt xpfet_01v8 D G S B
.param l=0.15u w=1u m=1 nf=1
.param ad = 'int((nf+1)/2) * W/nf * 0.29u'
.param as = 'int((nf+2)/2) * W/nf * 0.29u'
.param ps = '2*int((nf+2)/2) * (W/nf + 0.29u)'
.param pd = '2*int((nf+1)/2) * (W/nf + 0.29u)'
.param nrd = '0.29u / W'
.param nrs = '0.29u / W'
X1 D G S B sky130_fd_pr__pfet_01v8 l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs m=m
.ends


.subckt xnfet_01v8_lvt D G S B
.param l=0.15u w=1u m=1 nf=1
.param ad = 'int((nf+1)/2) * W/nf * 0.29u'
.param as = 'int((nf+2)/2) * W/nf * 0.29u'
.param ps = '2*int((nf+2)/2) * (W/nf + 0.29u)'
.param pd = '2*int((nf+1)/2) * (W/nf + 0.29u)'
.param nrd = '0.29u / W'
.param nrs = '0.29u / W'
X1 D G S B sky130_fd_pr__nfet_01v8_lvt l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs m=m
.ends

.subckt xpfet_01v8_lvt D G S B
.param l=0.35u w=1u m=1 nf=1
.param ad = 'int((nf+1)/2) * W/nf * 0.29u'
.param as = 'int((nf+2)/2) * W/nf * 0.29u'
.param ps = '2*int((nf+1)/2) * (W/nf + 0.29u)'
.param pd = '2*int((nf+2)/2) * (W/nf + 0.29u)'
.param nrd = '0.29u / W'
.param nrs = '0.29u / W'
X1 D G S B sky130_fd_pr__pfet_01v8_lvt l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs m=m
.ends


.subckt xnfet_g5v0d10v5 D G S B
.param l=0.5u w=1u m=1 nf=1
.param ad = 'int((nf+1)/2) * W/nf * 0.29u'
.param as = 'int((nf+2)/2) * W/nf * 0.29u'
.param ps = '2*int((nf+2)/2) * (W/nf + 0.29u)'
.param pd = '2*int((nf+1)/2) * (W/nf + 0.29u)'
.param nrd = '0.29u / W'
.param nrs = '0.29u / W'
X1 D G S B sky130_fd_pr__nfet_g5v0d10v5 l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs m=m
.ends

.subckt xpfet_g5v0d10v5 D G S B
.param l=0.5u w=1u m=1 nf=1
.param ad = 'int((nf+1)/2) * W/nf * 0.29u'
.param as = 'int((nf+2)/2) * W/nf * 0.29u'
.param ps = '2*int((nf+1)/2) * (W/nf + 0.29u)'
.param pd = '2*int((nf+2)/2) * (W/nf + 0.29u)'
.param nrd = '0.29u / W'
.param nrs = '0.29u / W'
X1 D G S B sky130_fd_pr__pfet_g5v0d10v5 l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs m=m
.ends